US05990106
1.22 g of 1-(t-butoxycarbonylamino)-3-azabicyclo[3.2.0]heptane, 0.96 g of 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 0.58 g of 1,8-diazabicyclo[5.4.0]-7-undecene were added to 20 ml of acetonitrile, followed by heating under reflux for 3.5 hours. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (using a 100:1 mixture of chloroform and methanol as the eluent) and recrystallization (from ethyl acetate-diisopropyl ether) to obtain 0.96 g of 7-[1-(t-butoxycarbonylamino)-3-azabicyclo[3.2.0]hept-3-yl]-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (m.p. 200-202° C.).

reactant | 1-(t-butoxycarbonylamino)-3-azabicyclo[3.2.0]heptane | 1.22 g | C(C)(C)(C)OC(=O)NC12CNCC2CC1 | C11H20N2O2
reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.96 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)F | C13H8ClF2NO3
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.58 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-[1-(t-butoxycarbonylamino)-3-azabicyclo[3.2.0]hept-3-yl]-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.96 g | C(C)(C)(C)OC(=O)NC12CN(CC2CC1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)O)=O)F | C24H27ClFN3O5
